US07064215B2
3-(1H-Benzimidazol-2-yl)-N-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-amine
3-Benzimidazol-2-yl-1H-indazole-5-ylamine (1 equivalent), 2-thiazolecarboxaldehyde(1.1 equivalent), BH3: pyridine (10 equivalents, 8 M in pyridine) in AcOH:MeOH:CH2Cl2 (1:2:2) were stirred for 18 hours at room temperature. The solvent was removed, and the residue was purified by preparatory HPLC. LC/MS (m/z) 347.1 (MH+), Rt 1.93 minutes.

reactant | 3-Benzimidazol-2-yl-1H-indazole-5-ylamine | 1 equivalent | N1=C(NC2=C1C=CC=C2)C2=NNC1=CC=C(C=C21)N | C14H11N5
reactant | 2-thiazolecarboxaldehyde | 1.1 equivalent | S1C(=NC=C1)C=O | C4H3NOS
reactant | pyridine | 8 M, 10 equivalents | N1=CC=CC=C1 | C5H5N
solvent | AcOH MeOH CH2Cl2 | CC(=O)O.CO.C(Cl)Cl
product | 3-(1H-Benzimidazol-2-yl)-N-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-amine | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC=C(C=C21)NCC=2SC=CN2 | C18H14N6S
